US05045552
1-Ethoxycarbonyl-2-{4-(3-methylpropoxy)-3-methylpyridine-2-yl}methylthiobenzimidazole
0.8 g of 2-{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylthio-1H-benzimidazole was dissolved in 10 ml of dimethylformamide to obtain a solution. 0.23 g of 60% sodium hydride was added to this solution at 0° C. The obtained mixture was stirred for 15 minutes. 0.4 g of ethyl chlorocarbonate was dropwise added to the resulting mixture at 0° C. The obtained mixture was stirred at a room temperature for one hour. A saturated aqueous solution of ammonium chloride was added to the resulting mixture to stop the reaction. The reaction mixture was extracted with chloroform. The extract was dried over magnesium sulfate and filtered. The filtrate was concentrated to obtain a residue. This residue was purified by silica gel column chromatography to obtain 0.82 g of the title compound as a white crystal.

reactant | 2-{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylthio-1H-benzimidazole | 0.8 g | COCCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C18H21N3O2S
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | ethyl chlorocarbonate | 0.4 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonyl-2-{4-(3-methylpropoxy)-3-methylpyridine-2-yl}methylthiobenzimidazole | 0.82 g | C(C)OC(=O)N1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2C)OCCCC | C21H25N3O3S
